US06191124B1
The Grignard reagent generated during 18 hours, from (2-bromoethyl)benzene (2.2 g) an Mg (0.291 g) in THF (70 mL) was treated with solid 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxaldehyde (FIG. E-6) (0.58 g) and reacted for 1.5 hours. The supernate solution was decanted into cold 5% ammonium chloride solution and precipitated 6,7-Dihydro-α-(2-phenylethyl)-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-methanol (FIG. E-7) (0.80 g) was filtered. Crystallization from acetonitrile solution gave pure 6,7-Dihydro-α-(2-phenylethyl)-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-methanol (FIG. E-7), m.p. 117-118°.

reactant | (2-bromoethyl)benzene | 2.2 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | 6,7-Dihydro-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-carboxaldehyde | 0.58 g | N=1C=C(N2C1SC1=C2CCC1)C=O | C9H8N2OS
solvent | THF | 70 mL | C1CCOC1 | C4H8O
product | 6,7-Dihydro-α-(2-phenylethyl)-5H-cyclopent[d]imidazo[2,1-b]thiazole-3-methanol | C1(=CC=CC=C1)CCC(O)C1=CN=C2SC3=C(N21)CCC3 | C17H18N2OS
